US05929089
5-(4-Amino-5-chloro-2-methoxyphenyl)-3-[1-(cyclohexylmethyl)piperidin-4-yl]-1,3,4-oxadiazol-2(3H)-one.
2.01 ml (13.92 mmol) of triethylamine and then 0.92 g (5.2 mmol) of cyclohexylmethyl bromide in 5 ml of acetonitrile are successively added at room temperature, under an argon atmosphere and with magnetic stirring, to a solution of 1.13 g (3.48 mmol) of 5-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)-1,3,4-oxadiazol-2(3H)-one in 40 ml of acetonitrile and the mixture is stirred at 70° C. for 2 days. The solvent is evaporated under reduced pressure, the residue is taken up in chloroform, the solution is washed a number of times with water and dried, the solvent is evaporated under reduced pressure and the residue is crystallized from acetone. 0.7 g of white solid is obtained. Melting point: 186.5-186.7° C.

reactant | triethylamine | 13.92 mmol, 2.01 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexylmethyl bromide | 5.2 mmol, 0.92 g | C1(CCCCC1)CBr | C7H13Br
reactant | 5-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)-1,3,4-oxadiazol-2(3H)-one | 3.48 mmol, 1.13 g | NC1=CC(=C(C=C1Cl)C1=NN(C(O1)=O)C1CCNCC1)OC | C14H17ClN4O3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-(4-Amino-5-chloro-2-methoxyphenyl)-3-[1-(cyclohexylmethyl)piperidin-4-yl]-1,3,4-oxadiazol-2(3H)-one | 0.7 g | NC1=CC(=C(C=C1Cl)C1=NN(C(O1)=O)C1CCN(CC1)CC1CCCCC1)OC | C21H29ClN4O3
